M19 (VOUT1 VOUT2 net042 VDD) pmos4
M18 (net042 VREF1 net043 VDD) pmos4
M17 (net043 VREF1 net044 VDD) pmos4
M16 (net044 VREF1 net8 VDD) pmos4
M14 (net026 VIN1 net026 VDD) pmos4
M13 (net028 VIN1 net028 VDD) pmos4
M12 (net030 VIN1 net030 VDD) pmos4
M11 (net032 VIN1 net032 VDD) pmos4
M9 (VOUT2 VOUT1 net016 VDD) pmos4
M8 (net016 VIN1 net018 VDD) pmos4
M7 (net016 VIN1 net018 VDD) pmos4
? Missing component
M5 (net018 VIN1 net1 VDD) pmos4
M4 (net018 VIN1 net1 VDD) pmos4
M3 (net018 VIN1 net1 VDD) pmos4
M2 (net1 VIN1 net8 VDD) pmos4
M1 (net1 VIN1 net8 VDD) pmos4
M0 (net8 VCLK1 VDD VDD) pmos4
M15 (VOUT1 VOUT2 VSS VSS) nmos4
M10 (VOUT2 VOUT1 VSS VSS) nmos4
I3 (net026 net016 VDD VSS) INVERTER
I2 (net028 net018 VDD VSS) INVERTER
I1 (net030 net1 VDD VSS) INVERTER
I0 (net032 net8 VDD VSS) INVERTER
