M1 (VOUT2 VCLK1 VDD VB2) pmos4
? Missing component
M10 (net12 VCLK2 VSS VSS) nmos4
M9 (net19 VCLK2 VSS VSS) nmos4
M8 (VOUT2 VOUT1 net19 VSS) nmos4
M7 (VOUT1 VOUT2 net19 VSS) nmos4
M6 (net36 VOUT1 net12 VSS) nmos4
M5 (net37 VOUT2 net12 VSS) nmos4
M4 (VOUT2 VIN1 net36 VSS) nmos4
M3 (VOUT1 VIN2 net37 VSS) nmos4
M2 (VCLK1 VB1 VCLK2 VSS) nmos4
C1 (VOUT1 VSS) capacitor
C0 (VOUT2 VSS) capacitor
