? Missing component
M1 (IOUT1 net07 VSS VSS) nmos4
M4 (IOUT2 net07 net19 VSS) nmos4
M5 (net19 net07 VSS VSS) nmos4
M3 (IOUT1 net07 VSS VSS) nmos4
R0 (VDD net07) resistor
