? Missing component
M2 (net16 VIN1 VSS VSS) nmos4
M1 (net12 VB1 VSS VSS) nmos4
M0 (VDD VOUT1 net12 VSS) nmos4
L0 (VDD VOUT1) inductor
R0 (net12 VIN1) resistor
