M5 (net21 VRF2 IB1 VSS) nmos4
M4 (net17 VRF1 IB1 VSS) nmos4
M3 (VOUT1 VLO2 net21 VSS) nmos4
M2 (VOUT2 VLO1 net21 VSS) nmos4
M1 (VOUT2 VLO2 net17 VSS) nmos4
? Missing component
R5 (VB1 VLO2) resistor
R4 (VLO1 VB1) resistor
R3 (VB2 VRF2) resistor
R2 (VRF1 VB2) resistor
R1 (VDD VOUT2) resistor
R0 (VDD VOUT1) resistor
