M1 (net7 net10 VDD VDD) pmos4
M0 (net4 net2 VDD VDD) pmos4
M7 (VOUT2 VLO2 net4 VDD) nmos4
M6 (VOUT2 VLO1 net7 VDD) nmos4
M5 (VOUT1 VLO1 net4 VDD) nmos4
M4 (VOUT1 VLO2 net7 VDD) nmos4
? Missing component
M2 (net4 VRF1 VSS VSS) nmos4
C2 (VOUT1 VOUT2) capacitor
C1 (net10 VRF2) capacitor
C0 (net2 VRF1) capacitor
R7 (VB3 VLO2) resistor
R6 (VLO1 VB3) resistor
R5 (VOUT1 VDD) resistor
R4 (VDD VOUT2) resistor
R3 (VB2 VRF2) resistor
R2 (VRF1 VB2) resistor
R1 (VB1 net10) resistor
R0 (net2 VB1) resistor
