? Missing component
M2 (VDD net12 net22 VSS) nmos4
M1 (net22 net15 VSS VSS) nmos4
M0 (net23 net6 VSS VSS) nmos4
R4 (VB1 net15) resistor
R3 (VB1 net6) resistor
R2 (net20 net15) resistor
R1 (net21 net6) resistor
R0 (VB1 net12) resistor
C4 (VDD VDD) capacitor
C3 (net15 VIN2) capacitor
C2 (net6 VIN1) capacitor
C1 (VDD net20) capacitor
C0 (VDD net21) capacitor
