L3 (VDD net20) inductor
L2 (VDD net21) inductor
L1 (VDD net11) inductor
L0 (VDD net9) inductor
C5 (net16 VSS) capacitor
C4 (net13 VSS) capacitor
C3 (VOUT2 net20) capacitor
C2 (VOUT1 net9) capacitor
C1 (net21 VB1) capacitor
C0 (net11 VB1) capacitor
M5 (IB1 net24 VSS VSS) nmos4
M4 (net16 net13 VSS VSS) nmos4
? Missing component
M2 (net11 net21 net16 VSS) nmos4
M1 (net20 net21 VSS VSS) nmos4
M0 (net9 net11 VSS VSS) nmos4
R0 (net24 net13) resistor
