M17 (VOUT2 net44 VDD VDD) pmos4
M15 (VOUT1 net46 VDD VDD) pmos4
? Missing component
M8 (net27 net46 net27 VDD) pmos4
M7 (net27 net46 net27 VDD) pmos4
M6 (net27 net46 net27 VDD) pmos4
M5 (net27 net44 net27 VDD) pmos4
M4 (net27 net44 net27 VDD) pmos4
M3 (net27 net44 net27 VDD) pmos4
M2 (net27 net44 net27 VDD) pmos4
M1 (net46 net44 VDD VDD) pmos4
M0 (net44 net46 VDD VDD) pmos4
R0 (net27 VB1) resistor
L1 (net51 net46) inductor
L0 (net44 net51) inductor
M18 (VOUT2 net44 net40 VSS) nmos4
M16 (VOUT1 net46 net40 VSS) nmos4
M14 (net40 IB1 VSS VSS) nmos4
M13 (IB1 IB1 VSS VSS) nmos4
M12 (net25 IB1 VSS VSS) nmos4
M11 (net44 net46 net25 VSS) nmos4
M10 (net46 net44 net25 VSS) nmos4
