? Missing component
M1 (net54 net56 VDD VDD) pmos4
L2 (net48 VB1) inductor
L1 (net53 VB2) inductor
L0 (net54 net56) inductor
C7 (VLO1 net53) capacitor
C6 (VLO2 net48) capacitor
C1 (net56 VB3) capacitor
C0 (net54 VB3) capacitor
M5 (VDD net56 net53 VSS) nmos4
M4 (VDD net54 net48 VSS) nmos4
M3 (net56 net54 VSS VSS) nmos4
M2 (net54 net56 VSS VSS) nmos4
