M31 (VOUT1 net72 VDD VDD) pmos4
M26 (VOUT2 net84 VDD VDD) pmos4
M25 (VOUT2 net24 VDD VDD) pmos4
M24 (VOUT1 net83 VDD VDD) pmos4
M23 (net59 net76 VDD VDD) pmos4
M22 (net79 net11 VDD VDD) pmos4
M21 (net79 net77 VDD VDD) pmos4
M16 (net59 net64 VDD VDD) pmos4
M15 (net24 VOUT1 VDD VDD) pmos4
M10 (net72 net70 VDD VDD) pmos4
M9 (net72 VOUT2 VDD VDD) pmos4
M8 (net24 net69 VDD VDD) pmos4
M3 (net64 net62 VDD VDD) pmos4
M2 (net64 net79 VDD VDD) pmos4
M1 (net11 net61 VDD VDD) pmos4
M0 (net11 net59 VDD VDD) pmos4
M30 (VOUT2 net79 VSS VSS) nmos4
M29 (VOUT1 net59 VSS VSS) nmos4
? Missing component
M27 (net84 VCONT4 VOUT1 VSS) nmos4
M20 (net77 VCONT3 net59 VSS) nmos4
M19 (net76 VCONT3 net79 VSS) nmos4
M18 (net59 net24 VSS VSS) nmos4
M17 (net79 net72 VSS VSS) nmos4
M14 (net72 net64 VSS VSS) nmos4
M13 (net24 net11 VSS VSS) nmos4
M12 (net69 VCONT2 net72 VSS) nmos4
M11 (net70 VCONT2 net24 VSS) nmos4
M7 (net64 VOUT1 VSS VSS) nmos4
M6 (net11 VOUT2 VSS VSS) nmos4
M5 (net61 VCONT1 net64 VSS) nmos4
M4 (net62 VCONT1 net11 VSS) nmos4
