L3 (IB1 VOUT2) inductor
L2 (IB1 VOUT1) inductor
L0 (IB2 net14) inductor
L1 (IB2 net26) inductor
C3 (VCONT2 VOUT1) capacitor
C2 (VCONT2 VOUT2) capacitor
C1 (VCONT1 net26) capacitor
C0 (VCONT1 net14) capacitor
M6 (net16 VCONT3 VSS VSS) nmos4
? Missing component
M4 (VOUT1 VOUT2 net16 VSS) nmos4
M3 (VOUT2 net26 VSS VSS) nmos4
M2 (VOUT1 net14 VSS VSS) nmos4
M1 (net26 net14 VSS VSS) nmos4
M0 (net14 net26 VSS VSS) nmos4
