L3 (net16 VSS) inductor
L2 (net9 VSS) inductor
L1 (VDD VOUT2) inductor
L0 (VDD VOUT1) inductor
M3 (VOUT2 VDD VIN2 VSS) nmos4
M2 (VOUT1 VDD VIN1 VSS) nmos4
M1 (VOUT2 VOUT1 net16 VSS) nmos4
? Missing component
C3 (net16 VCONT1) capacitor
C2 (net9 VCONT1) capacitor
C1 (VOUT2 net16) capacitor
C0 (VOUT1 net9) capacitor
