L1 (net14 VDD) inductor
L0 (net10 VDD) inductor
M12 (VOUT2 VDD net33 VSS) nmos4
M11 (VOUT1 VDD net34 VSS) nmos4
M10 (net33 net19 net26 VSS) nmos4
M9 (net34 net22 net26 VSS) nmos4
M8 (net26 IB1 VSS VSS) nmos4
? Missing component
M6 (net22 IB1 VSS VSS) nmos4
M5 (VDD net28 net19 VSS) nmos4
M4 (net19 IB1 VSS VSS) nmos4
M3 (IB1 IB1 VSS VSS) nmos4
M2 (net13 IB1 VSS VSS) nmos4
M1 (net14 net10 net13 VSS) nmos4
M0 (net10 net28 net13 VSS) nmos4
C1 (VCONT1 net14) capacitor
C0 (VCONT1 net10) capacitor
R1 (VDD VOUT2) resistor
R0 (VDD VOUT1) resistor
