L8 (net16 VDD) inductor
L7 (VSS net18) inductor
L6 (net16 net20) inductor
L5 (net14 VDD) inductor
L4 (VSS net15) inductor
L3 (net14 net21) inductor
L2 (VSS net13) inductor
L1 (net19 net22) inductor
L0 (net19 VDD) inductor
M2 (net19 net20 net18 VSS) nmos4
M1 (net16 net21 net15 VSS) nmos4
? Missing component
C2 (net18 VCONT3) capacitor
C1 (net15 VCONT2) capacitor
C0 (net13 VCONT1) capacitor
