L0 (IB1 VOUT1) inductor
L3 (VOUT2 net28) inductor
L2 (VOUT1 net22) inductor
L1 (IB1 VOUT2) inductor
? Missing component
M0 (VOUT1 VOUT2 VSS VSS) nmos4
M3 (VCONT1 net28 VCONT1 VDD) pmos4
M2 (VCONT1 net22 VCONT1 VDD) pmos4
