L3 (net14 net25) inductor
L2 (net14 net25) inductor
L1 (net19 net16) inductor
L0 (net19 net16) inductor
C5 (net31 net19) capacitor
C4 (net32 net25) capacitor
C3 (net29 net16) capacitor
C2 (net30 net14) capacitor
C1 (net25 net14) capacitor
C0 (net16 net19) capacitor
M9 (net25 VCONT2 net16 VSS) nmos4
M8 (net14 VCONT2 net19 VSS) nmos4
M7 (net25 VCONT1 net19 VSS) nmos4
M6 (net14 VCONT1 net16 VSS) nmos4
M5 (net32 VCONT3 net31 VSS) nmos4
M4 (net30 VCONT3 net29 VSS) nmos4
M3 (net25 net14 VSS VSS) nmos4
M2 (net14 net25 VSS VSS) nmos4
? Missing component
M0 (net19 net16 VSS VSS) nmos4
