L0 (net4 net11) inductor
C3 (VB1 VSS) capacitor
C2 (VB1 VSS) capacitor
C1 (VCONT1 net11) capacitor
C0 (VCONT1 net4) capacitor
M3 (net11 net4 VSS VB1) nmos4
? Missing component
M1 (net4 net11 VB1 VB1) nmos4
M0 (net11 net4 VB1 VB1) nmos4
