L4 (net17 net16) inductor
L3 (net21 VSS) inductor
L2 (net13 net22) inductor
L1 (net8 net22) inductor
L0 (net23 VDD) inductor
? Missing component
M3 (net17 net13 VSS VSS) nmos4
M2 (net16 net8 VSS VSS) nmos4
M1 (net13 net8 net21 VSS) nmos4
C5 (net16 VOUT2) capacitor
C4 (net17 VOUT1) capacitor
C3 (net6 net13) capacitor
C2 (net6 net8) capacitor
C1 (VSS net13) capacitor
C0 (net8 VSS) capacitor
R0 (VCONT1 net6) resistor
